US05461036
To (R)-(+)-2-hydroxyhexadecanoic acid (0.5 g; prepared according to the method described in Agric. Biol. Chem., 54(12), 3337-3338, 1990) dissolved in pyridine (15 ml) was added acetic anhydride (0.23 ml) at 0° C., and the mixture was stirred 12 hours. The reaction mixture was distributed into ethyl acetate and water, and the ethyl acetate layer was dried and concentrated to give (R)-(-)-2-acetoxyhexadecanoic acid (0.52 g). The acetoxy derivative was dissolved in DMF (20 ml), and N-hydroxysuccinimide (191 mg) and N,N'-dicyclohexylcarbodiimide (342 mg) were added to the solution at 0° C. The mixture was stirred at room temperature for 12 hours. The reaction mixture was then filtered, and 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (0.65 g) and triethylamine (1.1 ml) were added to the filtrate. The mixture was stirred for 12 hours. After the reaction mixture was concentrated, the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK198 in the yield of 119 mg.

reactant | (R)-(+)-2-hydroxyhexadecanoic acid | O[C@@H](C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | acetic anhydride | 0.23 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (R)-(-)-2-acetoxyhexadecanoic acid | 0.52 g | C(C)(=O)O[C@@H](C(=O)O)CCCCCCCCCCCCCC | C18H34O4
